US04957927
(a) 1-(diphenylmethoxy)-3-bromopropane
A mixture of 12.3 g (50 mmole) of bromodiphenylmethane, 8.3 g (60 mmole) of 3-bromopropanol and 6.3 g (60 mmole) of sodium carbonate was heated at 120°-130° C. for 10 hours and then left overnight at room temperature. The mixture was extracted with ether and washed with water. The ethereal extract was dried on sodium sulfate. Evaporation of the ether yielded an oil, which was purified by distillation.

reactant | bromodiphenylmethane | 50 mmole, 12.3 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | 3-bromopropanol | 60 mmole, 8.3 g | BrCCCO | C3H7BrO
reactant | sodium carbonate | 60 mmole, 6.3 g | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(diphenylmethoxy)-3-bromopropane | C1(=CC=CC=C1)C(OCCCBr)C1=CC=CC=C1 | C16H17BrO
